US05116844
(i) 2-Acetoxy-2',4'-difluoroacetophenone
A solution of 2-chloro-2',4'-difluoroacetophenone (19.0 g) and anhydrous sodium acetate (16.4 g) in acetic acid (50 ml) was heated under reflux for 4 hours and then evaporated. The residue was partitioned between ethyl acetate and water. The organic layer was separated, washed with sodium bicarbonate solution and dried (Na2SO4). Evaporation of the solvent gave an oil which was triturated with hexane. The resulting solid was filtered off, washed with hexane and dried to give the title compound, (16.2 g), m.p. 54°-56°.

reactant | 2-chloro-2',4'-difluoroacetophenone | 19.0 g | ClCC(=O)C1=C(C=C(C=C1)F)F | C8H5ClF2O
reactant | sodium acetate | 16.4 g | C(C)(=O)[O-].[Na+]
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | 2-Acetoxy-2',4'-difluoroacetophenone | 16.2 g | C(C)(=O)OCC(=O)C1=C(C=C(C=C1)F)F | C10H8F2O3
